US04081452
In the manner given in Example 2, solution of hydrazine hydrate in ethanol is reacted at 65° C. with 8-fluoro-1-[(phthalimidooxy)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine to give 1-(aminooxy)methyl]-8-fluoro-6phenyl-4H-s-triazolo[4,3-a][1,4]-benzodiazepine.

reactant | hydrazine hydrate | O.NN
reactant | 8-fluoro-1-[(phthalimidooxy)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC=1C=CC2=C(C(=NCC=3N2C(=NN3)CON3C(C=2C(C3=O)=CC=CC2)=O)C2=CC=CC=C2)C1 | C25H16FN5O3
solvent | ethanol | C(C)O | C2H6O
product | 8-fluoro-6phenyl-4H-s-triazolo[4,3-a][1,4]-benzodiazepine | FC=1C=CC2=C(C(=NCC=3N2C=NN3)C3=CC=CC=C3)C1 | C16H11FN4
